US07674804B2
(2-Chloro-5-fluoro-pyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(2-chloro-5-fluoro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.0 g, 6.05 mmol) in 4 M HCl in dioxane (100 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 231.1 [M+H]+.

reactant | 4-(2-chloro-5-fluoro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 6.05 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC=C1F)Cl | C14H20ClFN4O2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (2-Chloro-5-fluoro-pyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC1=NC=C(C(=N1)NC1CCNCC1)F | InChI=1S/C9H12ClFN4.2ClH/c10-9-13-5-7(11)8(15-9)14-6-1-3-12-4-2-6;;/h5-6,12H,1-4H2,(H,13,14,15);2*1H
